US06921759B2
Step 1: N-(4-fluorobenzyl)-6-methoxy-3-methyl-1-(2-morpholin-4-ylethyl)-2-oxo-2,3-dihydro-1H-pyrimido[4,5,6-de]-1,6-naphthyridine-5-carboxamide
To a solution of N-(4-fluorobenzyl)-8-methoxy-5-(methylamino)-1,6-naphthyridine-7-carboxamide (504 mg, 1.48 mmol) in CH2Cl2 (5 mL) at OC was added diisopropylethylamine (0.77 mL, 4.4 mmol) and triphosgene (0.22 g, 0.74 mmol) and the mixture was stirred at room temperature for 16 hr. Additional diisopropylethylamine (0.77 mL, 4.4 mmol) and triphosgene (0.22 g, 0.74 mmol) was added and the reaction was stirred an additional 16 hr at room temperature. The reaction was diluted with CH2Cl2 and a portion of this solution (1.0 mL) was treated with 2-morpholinoethylamine (0.12 mL 0.89 mmol) at room temperature for 16 hr. The solvent was evaporated in vacuo and the residue dissolved in DMSO (0.5 mL) and purified by reverse phase HPLC. (Vydak C18, Gradient elution with Water:Acetonitrile 95:5 to 5:95 with 0.1% TFA at 30 mL/min over 15 mins). Lyophilization of the pure fractions afforded the title compound as an off white solid which was used directly in step 2.

reactant | N-(4-fluorobenzyl)-8-methoxy-5-(methylamino)-1,6-naphthyridine-7-carboxamide | 1.48 mmol, 504 mg | FC1=CC=C(CNC(=O)C2=NC(=C3C=CC=NC3=C2OC)NC)C=C1 | C18H17FN4O2
reactant | diisopropylethylamine | 4.4 mmol, 0.77 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triphosgene | 0.74 mmol, 0.22 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | diisopropylethylamine | 4.4 mmol, 0.77 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triphosgene | 0.74 mmol, 0.22 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-morpholinoethylamine | 0.89 mmol, 0.12 mL | O1CCN(CC1)CCN | C6H14N2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N-(4-fluorobenzyl)-6-methoxy-3-methyl-1-(2-morpholin-4-ylethyl)-2-oxo-2,3-dihydro-1H-pyrimido[4,5,6-de]-1,6-naphthyridine-5-carboxamide | FC1=CC=C(CNC(=O)C=2N=C3C=4C(=CC=NC4C2OC)N(C(N3C)=O)CCN3CCOCC3)C=C1 | C25H27FN6O4
